US04072705
Preparation of Diethylaminoethyl 2-(p-benzoylphenoxy)-2-methylpropionate
299 g (1 mole) of methyl 2-(p-benzoylphenoxy)-2-methylpropionate, 30 g of titanium isopropylate and 117 g (1 mole) of diethylaminoethanol are placed in a 500-cc flask. The reaction mixture is heated for 45 minutes at 120° C (interior temperature) so as to distil off all the alcohol formed. The mixture is then allowed to cool and poured on to 10% hydrochloric acid in the presence of ether. The aqueous phase is made alkaline and then extracted with methylene chloride. The organic phase is carefully washed with water, then dried, decolorised and concentrated under vacuum. The residual oil is the desired ester. Yield 264 g, 69%. The maliate salt melts at 62° C.

reactant | methyl 2-(p-benzoylphenoxy)-2-methylpropionate | 1 mole, 299 g | C(C1=CC=CC=C1)(=O)C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C18H18O4
reactant | diethylaminoethanol | 1 mole, 117 g | CCN(CC)CCO | C6H15NO
reactant | hydrochloric acid | Cl | ClH
catalyst | titanium isopropylate | 30 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
solvent | ether | CCOCC | C4H10O
product | Diethylaminoethyl 2-(p-benzoylphenoxy)-2-methylpropionate | C(C1=CC=CC=C1)(=O)C1=CC=C(OC(C(=O)OCCN(CC)CC)(C)C)C=C1 | C23H29NO4
